US05804585
D. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 12(B) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[1-hydroxy-3-(3,4-methylenedioxyphenyl)propyl]thieno[2,3-b]pyridine-3-sulfonamide (0.51 g, 0.85 mmoles), CH2Cl2 (20 ml), celite, and PCC (0.27 g, 1.3 mmoles) except the reaction mixture was stirred 24 hours prior to filtering. Flash chromatography (40% EtOAc/hexanes) provided 0.37 g (74%) of the title compound as a yellow oil/solid.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[1-hydroxy-3-(3,4-methylenedioxyphenyl)propyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.85 mmoles, 0.51 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(CCC2=CC1=C(C=C2)OCO1)O)COCCOC)C | C25H26ClN3O8S2
reactant | PCC | 1.3 mmoles, 0.27 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[3-(3,4-methylenedioxyphenyl)propionyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.37 g, 74% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(CCC2=CC1=C(C=C2)OCO1)=O)COCCOC)C | C25H24ClN3O8S2
